US07977352B2
A.6 (5-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine
A solution of 8-bromo-5-chloro-[1,2,4]triazolo[1,5-a]pyridine (100 mg, 0.43 mmol), 4-(4-methyl-piperazin-1-yl)-phenylamine (91 mg, 0.47 mmol), sodium-tert-butoxide (58 mg, 0.6 mmol), tris(dibenzylideneacetone)dipalladium (0) (39 mg, 40 μmol) and Xantphos (50 mg, 90 μmol) in dioxane is degassed for one minute by nitrogen bubbling and irradiated in a sealed tube in a microwave (CEM Explorer) under a nitrogen atmosphere for 45 minutes at 110° C. After addition of dichloromethane the suspension is filtered through a plug of silica and the filtrate evaporated and stripped twice with dichloromethane. The residue is purified by flash chromatography (silica gel, dichloromethane/7N NH3 in methanol 95:5) affording the title compound (95 mg) as a foam.

reactant | 8-bromo-5-chloro-[1,2,4]triazolo[1,5-a]pyridine | 0.43 mmol, 100 mg | BrC=1C=2N(C(=CC1)Cl)N=CN2 | C6H3BrClN3
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.47 mmol, 91 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | sodium-tert-butoxide | 0.6 mmol, 58 mg | CC(C)([O-])C.[Na+]
reactant | Xantphos | 90 μmol, 50 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 40 μmol, 39 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dichloromethane | ClCCl | CH2Cl2
product | (5-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 95 mg | ClC1=CC=C(C=2N1N=CN2)NC2=CC=C(C=C2)N2CCN(CC2)C | C17H19ClN6
